US06388084B1
c. Preparation of 2-(1-methylethyl)-6-methylbenzoyl chloride
A solution of 2-(1-methylethyl)-6-methylbenzoic acid (64 mg, 0.35 mmol) in dichloromethane (3 mL) containing DMF (2 drops) was treated with oxalyl chloride (0.16 mL, 1.8 mmol) and the mixture was stirred for 15 h. The mixture was concentrated, azeotroping with toluene to remove traces of oxalyl chloride and the residue was used directly in the next step.

reactant | 2-(1-methylethyl)-6-methylbenzoic acid | 0.35 mmol, 64 mg | CC(C)C1=C(C(=O)O)C(=CC=C1)C | C11H14O2
reactant | oxalyl chloride | 1.8 mmol, 0.16 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 2-(1-methylethyl)-6-methylbenzoyl chloride | CC(C)C1=C(C(=O)Cl)C(=CC=C1)C | C11H13ClO
